US05079260
9-(2-Ethyl-1,3-dioxolane-2-yl)fluorene
A solution of BuLi (2.35 M in hexane, 25.6 mL, 60.2 mmol) was slowly added into a cooled (-78° C.) solution of fluorene (10 g, 60.2 mmol) in 200 mL THF. The reaction mixture turned dark red and solid started to precipitate out. After 30 minutes 2-(2-bromoethyl)-1,3-dioxolane (12 g, 66.3 mmol) was added to the cold solution and the solution was warmed up to room temperature. TLC (silica, 5% EtOAc in hexane) was used to monitor the reaction. After two hours the reaction was quenched with water and the product was extracted into EtOAc. The organic layer was washed with water (×3), dried over magnesium sulfate and evaporated. Short path chromatography afforded 8.34 g (52%) of the product as a colorless oil.

reactant | BuLi | 60.2 mmol, 2.35 M, 25.6 mL | [Li]CCCC
reactant | fluorene | 60.2 mmol, 10 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 66.3 mmol, 12 g | BrCCC1OCCO1 | C5H9BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 9-(2-Ethyl-1,3-dioxolane-2-yl)fluorene | 8.34 g, 52% | C(C)C1(OCCO1)C1C2=CC=CC=C2C=2C=CC=CC12 | C18H18O2
